US08383274B2
41.5 g (0.409 mol) of triethylamine was added to 300 ml of dimethyl carbonate solution of 44.0 g (0.386 mol) of 4-formyloxy-2-butyn-1-ol, and cooled to 0° C. 46.9 g (0.409 mol) of methanesulfonyl chloride was dropwise added to the solution while the inner temperature was controlled to be not higher than 15° C. After the addition, this was stirred at 25° C. for 1.5 hours, the reaction mixture was poured into an aqueous saturated sodium bicarbonate solution, the aqueous layer was separated, and the organic layer was concentrated to give 72.6 g (yield 98%) 4-formyloxy-2-butyn-1-yl methanesulfonate. For use in the battery test, this was purified through silica gel column chromatography.

reactant | triethylamine | 0.409 mol, 41.5 g | C(C)N(CC)CC | C6H15N
reactant | 4-formyloxy-2-butyn-1-ol | 0.386 mol, 44.0 g | C(=O)OCC#CCO | C5H6O3
reactant | methanesulfonyl chloride | 0.409 mol, 46.9 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethyl carbonate | 300 ml | C(OC)(OC)=O | C3H6O3
product | 4-formyloxy-2-butyn-1-yl methanesulfonate | 72.6 g, yield 98% | CS(=O)(=O)OCC#CCOC=O | C6H8O5S
